US07202367B2
Preparation of 3,5-dimethyl-1-phenyl-1H-pyrazole
Operating protocol A (110° C., 54 hours) was followed using 117 mg of Chxn-Py-Al (0.4 mmoles), 336 μl of iodobenzene (3 mmoles), 192 mg of 3,5-dimethylpyrazole (2 mmoles) and 1.2 ml of DMF. The degree of transformation and selectivity for 5-dimethyl-1-phenyl-1H-pyrazole were 100%.

reactant | iodobenzene | 3 mmoles, 336 μl | IC1=CC=CC=C1 | C6H5I
reactant | 3,5-dimethylpyrazole | 2 mmoles, 192 mg | CC1=NNC(=C1)C | C5H8N2
solvent | DMF | 1.2 ml | CN(C)C=O | C3H7NO
product | 3,5-dimethyl-1-phenyl-1H-pyrazole | CC1=NN(C(=C1)C)C1=CC=CC=C1 | C11H12N2
